US07276539B2
(iii) 2-{[2-(4-Fluorophenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]-phenoxy}ethyl)phenyl]propanoic acid
Methyl 2-{[2-(4-fluorophenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]-phenoxy}ethyl)phenyl]propanoate (77 mg, 0.14 mmol) was dissolved in 2.5 ml of a 4:1 mixture of THF and water and cooled on an ice-bath. Lithium hydroxide (6.9 mg, 0.29 mmol) was added. Water was added after 2 days of stirring at room temperature. The THF was evaporated under reduced pressure. The aqueous phase was acidified with 1M HCl and extracted with EtOAc three times. The organic phases were pooled, washed (water, brine), dried (MgSO4) and evaporated. The crude product was purified using preparative HPLC (eluent: CH3CN/5% CH3CN-waterphase containing 0.1M NH4Oac). 24 mg of the desired product (yield 30%) was obtained as an oil.

reactant | Methyl 2-{[2-(4-fluorophenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]-phenoxy}ethyl)phenyl]propanoate | 0.14 mmol, 77 mg | FC1=CC=C(C=C1)CCSC(C(=O)OC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C27H29FO6S2
reactant | Lithium hydroxide | 0.29 mmol, 6.9 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-{[2-(4-Fluorophenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]-phenoxy}ethyl)phenyl]propanoic acid | 24 mg, yield 30% | FC1=CC=C(C=C1)CCSC(C(=O)O)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C26H27FO6S2
